US04209517
1-(3,4-methylenedioxyphenyl)-4-methyl-5-morpholino-1-pentene-3-one (Code No.: 1156 b).
A mixture of 20 g of 1-(3,4-methylenedioxyphenyl)-1-pentene-3-one (0.1 mole), 3 g of paraformaldehyde (0.1 mole) and 12.2 g of morpholine hydrochloride (0.1 mole) in 100 cm3 of absolute alcohol adjusted to a pH of 3 is refluxed for 9 hours. The alcohol is removed and the product is taken up in water. The product is then extracted with chloroform, and the basic, aqueous phase is taken and re-extracted with benzene. A yellow oil is obtained which can be used for the reduction of Example 6.

reactant | 1-(3,4-methylenedioxyphenyl)-1-pentene-3-one | 0.1 mole, 20 g | C1OC=2C=C(C=CC2O1)C=CC(CC)=O | C12H12O3
reactant | paraformaldehyde | 0.1 mole, 3 g | C=O | CH2O
reactant | morpholine hydrochloride | 0.1 mole, 12.2 g | Cl.N1CCOCC1
product | 1-(3,4-methylenedioxyphenyl)-4-methyl-5-morpholino-1-pentene-3-one | C1OC=2C=C(C=CC2O1)C=CC(C(CN1CCOCC1)C)=O | C17H21NO4
